US06114532
d. 4-(1-methyl-5-amino-1H-indol-2-yl)-methyl-benzonitrile
Prepared analogously to Example 1c from 4-(1-methyl-5-nitro-1H-indol-2-yl)-methyl-benzonitrile, palladium on activated charcoal in methylene chloride/methanol and hydrogen.

reactant | 4-(1-methyl-5-nitro-1H-indol-2-yl)-methyl-benzonitrile | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C1=CC(=C(C#N)C=C1)C | C17H13N3O2
catalyst | palladium on activated charcoal | [Pd] | Pd
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | hydrogen | [H][H] | H2
product | 4-(1-methyl-5-amino-1H-indol-2-yl)-methyl-benzonitrile | CN1C(=CC2=CC(=CC=C12)N)C1=CC(=C(C#N)C=C1)C | C17H15N3
